US08076482B2
To dry tetrahydrofuran (400 mL) was added 1M THF solution of LiHMDS (420 mmol, 420 mL) under argon at room temperature, followed by the addition of 5-fluoro-2-methyl-benzaldehyde (58 g, 420 mmol). After the mixture was stirred at room temperature for 1 h, trimethylsilyl chloride (53.2 mL, 420 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (76 mL, 544 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (38.8 ml, 544 mmol) in diethyl ether (500 mL). The cooling bath was removed, and the mixture was stirred at room temperature overnight. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give crude 1-(5-fluoro-2-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 420 mmol, 420 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-fluoro-2-methyl-benzaldehyde | 420 mmol, 58 g | FC=1C=CC(=C(C=O)C1)C | C8H7FO
reactant | trimethylsilyl chloride | 420 mmol, 53.2 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 544 mmol, 76 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 544 mmol, 38.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 1-(5-fluoro-2-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
